US07612114B2
6-{2-{Ethyl[4-(2-pyrrolidin-1-yl-ethoxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[ethyl(4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (29 mg) and 2-chloro-1-pyrrolidin-1-ylethanone (17 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (28 mg) was obtained.

reactant | pivalic acid 6-{2-[ethyl(4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 29 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC=C(C=C1)O)=O | C31H35NO5
reactant | 2-chloro-1-pyrrolidin-1-ylethanone | 17 mg | ClCC(=O)N1CCCC1 | C6H10ClNO
product | 6-{2-{Ethyl[4-(2-pyrrolidin-1-yl-ethoxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 28 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)O)CC1=CC=C(C=C1)OCCN1CCCC1 | C32H40N2O3
